********Example S 10.1 folded-cascode amplifier *********
******* Main circuit begins here**************
I_I2         VS1 0 DC {Iref}  
I_I1         VG23 0 DC {Iref}  
M_M3         D VG23 VDD VDD PMOS0P5  
+ L=0.6u  
+ W=5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={2*{M}}
R_R1         VSIG IN  {Rsig} TC=0,0 
C_C2         0 VS1  {CS}  TC=0,0 
V_V2         VSIG 0  AC 1Vac
+SIN 2.45Vdc 1 1k 0 0 0
M_M1         D IN VS1 0 NMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={M1}
M_M4         VG23 VG23 VDD VDD PMOS0P5  
+ L=0.6u  
+ W=5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M}
V_V1         VDD 0 {VDD}
C_C1         0 OUT  {Cload}  TC=0,0 
M_M2         OUT VG28 D VDD PMOS0P5  
+ L=0.6u  
+ W=5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M}
M_M7         VG7 VG7 VDD VDD PMOS0P5  
+ L=0.6u  
+ W=5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M}
M_M8         VG28 VG28 VG7 VDD PMOS0P5  
+ L=0.6u  
+ W=5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M}
I_I3         VDD VG56 DC {Iref}  
I_I4         VG28 0 DC {Iref}  
M_M5         OUT VG56 0 0 NMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={M}
M_M6         VG56 VG56 0 0 NMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={M}
.PARAM  iref=100u cs=1 m=4 vdd=3.3 cload=0.5p rsig=100 m1=18
******* Main circuit ends here**************

************Model for NMOS in 0.5um CMOS Technology begins here*****************
* 		(created by Anas Hamoui & Olivier Trescases)
.model NMOS0P5	NMOS(Level=1 VTO=0.7 GAMMA=0.5 PHI=0.8
+		LD=0.08E-06 WD=0 UO=460 LAMBDA=0.1 TOX=9.5E-9 PB=0.9 CJ=0.57E-3
+		CJSW=120E-12 MJ=0.5 MJSW=0.4 CGDO=0.4E-9 JS=10E-9 CGBO=0.38E-9
+		CGSO=0.4E-9)
************Model for NMOS in 0.5um CMOS Technology ends here*****************

************Model for PMOS in 0.5um CMOS Technology begins here*****************
* 		(created by Anas Hamoui & Olivier Trescases)
.model PMOS0P5	PMOS(Level=1 VTO=-0.8 GAMMA=0.45 PHI=0.8
+		LD=0.09E-06 WD=0 UO=115 LAMBDA=0.2 TOX=9.5E-9 PB=0.9 CJ=0.93E-3
+		CJSW=170E-12 MJ=0.5 MJSW=0.35 CGDO=0.35E-9 JS=5E-9 CGBO=0.38E-9
+		CGSO=0.35E-9)
************Model for PMOS in 0.5um CMOS Technology ends here*****************

******** Analysis begins here****************
.OP
.AC  DEC   20  1 1G
.PROBE
.END
******** Analysis ends here****************

