****** Lab 4 Ideal Simulation *******
****** Author: A. Salinas ***********
****** Date: September 19, 2025******

Q1 RC N004 0 0 Qbreakn 
VCC N002 0 DC=15
RB N004 N003 R=390000
RC N002 RC R=1000
VBB N001 0 DC=25.3
RB1 N001 N003 R=10000
RB2 N003 0 R=10000
.model Qbreakn NPN()

.save V(n004) V(n001) V(n003) V(rc) V(n002) I(Q1) I(VCC) I(RB1) I(RB2) I(RB)
+ I(RC) I(VBB)
.end
